### PR TITLE
[Merged by Bors] - feat(Compactification/OnePoint): classify GL2 elements by fixed points

### PR DESCRIPTION
**Pull request by loefflerd**
Classify 2x2 matrices over R as elliptic, parabolic or hyperbolic and describe their fixed points.

---

Carved off from the larger WIP PR #26651.

- [x] depends on: #26811

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Compactification/OnePoint/ProjectiveLine.lean [hunk 1]
```diff
@@ -68,4 +74,299 @@ lemma equivProjectivization_symm_apply_mk (x y : K) (h : (x, y) ≠ 0) :
...
+
+variable {m}
+
+-- conjugation lemmas are not flagged `simp` because `g.val⁻¹` is simp-normal form, not
+-- `g⁻¹.val`, but `g⁻¹.val` is more convenient in this theory
+
+lemma disc_conj : (g * m * g⁻¹).disc = m.disc := by
+  simp only [disc, trace_units_conj, det_units_conj]
+
+lemma disc_conj' : (g⁻¹ * m * g).disc = m.disc := by
```
Comment (CBirkbeck) [inline Mathlib/Topology/Compactification/OnePoint/ProjectiveLine.lean]: This probably needs a docstring since its a primed version, or maybe another name like `disc_conj_alt` or something.

File: Mathlib/Topology/Compactification/OnePoint/ProjectiveLine.lean [hunk 2]
```diff
@@ -68,4 +74,299 @@ lemma equivProjectivization_symm_apply_mk (x y : K) (h : (x, y) ≠ 0) :
...
+lemma mem_center_iff_val_eq_scalar {g : GL n R} :
+    g ∈ Subgroup.center (GL n R) ↔ g.val ∈ Set.range (scalar _) := by
+  rcases isEmpty_or_nonempty n
+  · simpa [Subsingleton.elim (Subgroup.center _) ⊤] using ⟨1, Subsingleton.elim _ _⟩
+  constructor
+  · intro hg
+    refine Matrix.mem_range_scalar_of_commute_transvectionStruct fun t ↦ ?_
+    simpa [Units.ext_iff] using Subgroup.mem_center_iff.mp hg (.mk _ _ t.mul_inv t.inv_mul)
+  · refine fun ⟨a, ha⟩ ↦ Subgroup.mem_center_iff.mpr fun h ↦ ?_
+    simpa [Units.ext_iff, ← ha] using (scalar_commute a (mul_comm a ·) h.val).symm
```
Comment (CBirkbeck) [inline Mathlib/Topology/Compactification/OnePoint/ProjectiveLine.lean]: this should maybe be in another file like. Perhaps the GLn file. Similarly for `center_eq_range_units`

File: Mathlib/Topology/Compactification/OnePoint/ProjectiveLine.lean [hunk 3]
```diff
@@ -68,4 +74,299 @@ lemma equivProjectivization_symm_apply_mk (x y : K) (h : (x, y) ≠ 0) :
...
+noncomputable def disc : R := m.trace ^ 2 - 4 * m.det
+
+/-- A `2 × 2` matrix is *parabolic* if it is non-scalar and its discriminant is 0. -/
+def IsParabolic : Prop := m ∉ Set.range (scalar _) ∧ m.disc = 0
+
+/-- A `2 × 2` matrix is *hyperbolic* if its discriminant is a non-zero square. -/
+def IsHyperbolic : Prop := m.disc ≠ 0 ∧ ∃ s, s ^ 2 = m.disc
+
+/-- A `2 × 2` matrix is *elliptic* if its discriminant is not a square. -/
+def IsElliptic : Prop := ¬∃ s, s ^ 2 = m.disc
```
Comment (CBirkbeck) [inline Mathlib/Topology/Compactification/OnePoint/ProjectiveLine.lean]: In Shimura's  book (and wikipedia) these are defined for `SL_2(C)` with the conditions mentioning the trace being real or not, which doesn't seem to agree with these definitions (at least for Hyperbolic and Elliptic). Is this right? if so we'd want to mention it somewhere.

**Review by CBirkbeck — COMMENTED** [review]
I've ignored the bits that are from #26811

File: Mathlib/Topology/Compactification/OnePoint/ProjectiveLine.lean (hunk 3 above)
Comment (loefflerd) [reply Mathlib/Topology/Compactification/OnePoint/ProjectiveLine.lean]: Hmm. You're right. Maybe we should restrict to the case R = real for "hyperbolic" and "elliptic".

Comment (loefflerd) [reply Mathlib/Topology/Compactification/OnePoint/ProjectiveLine.lean]: Hopefully better solution: I restored the definition of hyperbolic / elliptic only for _ordered_ rings `R`, with the definition being that the discriminiant is positive / negative, not that it be square or non-square.

**Comment by loefflerd** [comment]
CI run failed for some reason I don't understand, so I'm merging master in the hope that will fix it.

File: Mathlib/Topology/Compactification/OnePoint/ProjectiveLine.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/Topology/Compactification/OnePoint/ProjectiveLine.lean]: The linter doesn't complain. I think there's an established convention that for statements involving `conj`, the prime denotes changing conventions for which side the inverse goes; and this case maybe has special handling in the linter? (Compare e.g. docs#Subgroup.Normal.conj_mem and docs#Subgroup.Normal.conj_mem').

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/FinTwo.lean [hunk 4]
```diff
@@ -0,0 +1,188 @@
...
+open Polynomial
+
+namespace Matrix
+
+section CommRing
+
+variable {R : Type*} [CommRing R] (m : Matrix (Fin 2) (Fin 2) R) (g : GL (Fin 2) R)
+
+/-- The discriminant of a `2 × 2` matrix. -/
+noncomputable def disc : R := m.trace ^ 2 - 4 * m.det
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/FinTwo.lean]: Shouldn't we make this definition for an arbitrary matrix and then prove a lemma that it has this formula for the 2x2 case?

I'm a bit surprised to see that we seem not to have a definition of the discriminant of a polynomial anywhere (maybe I'm missed it?) but we do have [Polynomial.resultant](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Polynomial/Resultant/Basic.html#Polynomial.resultant) so maybe we could add:
```lean
noncomputable def Polynomial.disc {R : Type*} [CommRing R] (f : R[X]) :=
  f.resultant f.derivative
```
at the bottom of the file `Mathlib.RingTheory.Polynomial.Resultant.Basic` (adding an import as required, since it's a leaf file) and then for matrices instead of this definition we could have:
```lean
noncomputable abbrev disc := m.charpoly.disc
```
and then we'd prove:
```lean
lemma disc_fin_two_eq :
    m.disc = m.trace ^ 2 - 4 * m.det := by
```
This would be parallel to the way we have `Matrix.det` defined quite generally but also provide [Matrix.det_fin_two](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/Determinant/Basic.html#Matrix.det_fin_two).

What do you think?

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/FinTwo.lean [hunk 5]
```diff
@@ -0,0 +1,188 @@
...
+
+/-- The fixed-point polynomial is identically zero iff `g` is scalar. -/
+lemma fixpointPolynomial_eq_zero_iff {g : GL (Fin 2) R} :
+    g.fixpointPolynomial = 0 ↔ g.val ∈ Set.range (scalar _) := by
+  rw [fixpointPolynomial]
+  constructor
+  · refine fun hP ↦ ⟨g 0 0, ?_⟩
+    have hb : g 0 1 = 0 := by simpa using congr_arg (coeff · 0) hP
+    have hc : g 1 0 = 0 := by simpa using congr_arg (coeff · 2) hP
+    have hd : g 1 1 = g 0 0 := by simpa [sub_eq_zero] using congr_arg (coeff · 1) hP
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/FinTwo.lean:148]: I'd love if we could find a convenient way to write `a` instead of `g 0 0` etc. in situations like this. We could attempt a pattern like this to help in proofs at least:
```suggestion
  · obtain ⟨g, -, -, -⟩ := g
    obtain ⟨a, b, c, d, rfl⟩ : ∃ a b c d, !![a, b; c, d] = g :=
      ⟨g 0 0, g 1 0, g 0 1, g 1 1, sorry /- trivial missing API -/⟩
    refine fun hP ↦ ⟨a, ?_⟩
    have hb : b = 0 := by simpa using congr_arg (coeff · 0) hP
    have hc : c = 0 := by simpa using congr_arg (coeff · 2) hP
    have hd : d = a := by simpa [sub_eq_zero] using congr_arg (coeff · 1) hP
```
What do you think? It's clearly a crutch rather than a real solution so feel free to dismiss!

**Review by ocfnash — COMMENTED** [review]
Thanks!

This is all very nice. I have one real question about defining the discriminant more generally, but otherwise I think this is very nearly ready.

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/FinTwo.lean (hunk 4 above)
Comment (loefflerd) [reply Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/FinTwo.lean]: This clearly ought to be the "morally right" approach, but it is awkward to implement for arbitrary commutative rings, because it's not quite true that `f.disc = f.resultant f.derivative`; there's a sign and (more troublesome) a division by the leading coefficient. Over fields we are ok; but for polynomials over rings with non-zero but non-unit leading coefficient it's not clear to me how to do this nicely. I suspect that may be why nobody's done discriminants of polynomials in Mathlib before.

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/FinTwo.lean (hunk 5 above)
Comment (loefflerd) [reply Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/FinTwo.lean:148]: I feel this proof is simple enough that it's overkill to weigh it down this way – it would be nice to have a fix that applied everywhere, but for this proof I vote we leave it to the reader to realise that in the hypothesis names, `a` is `g 0 0` etc.

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/FinTwo.lean (hunk 4 above)
Comment (loefflerd) [reply Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/FinTwo.lean]: @kckennylau Kenny Lau: I believe you were the author of the `Polynomial.resultant` code; do you have any thoughts about the best way to define `Polynomial.disc` over non-field commutative rings?

Comment (kckennylau) [reply Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/FinTwo.lean]: @loefflerd I don't know a better way to do it than using [Wikipedia's method](https://en.wikipedia.org/wiki/Discriminant#Definition) where you build an auxiliary matrix with the first row "divided by the leading coefficient" so that it looks like [1 0 ... n 0 ... ]. You could probably generalise this to a very messy function where given two polynomials p and q, and a factorization p.leadingCoeff = g * a1, q.leadingCoeff = g * a2, and then you can do the same thing to "manually divide by g" in the first row of the Sylvester matrix before taking the determinant.

Comment (loefflerd) [reply Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/FinTwo.lean]: I think our definition of the Sylvester matrix is slightly different from the Wikipedia one, so it's actually the bottom row (not the top one) in which every entry is divisible by the leading coefficient. (Our definition has the *constant* coefficient of the first polynomial as the (0, 0) entry, not the *leading* coefficient.) So I think we should get something like
```lean
/--
noncomputable def
sylvester_deriv (f : R[X]) : Matrix (Fin (2 * f.natDegree - 1)) (Fin (2 * f.natDegree - 1)) R :=
  letI d := f.natDegree
  .of fun i j ↦
    if i < 2 * d - 2 then
      f.sylvester f.derivative d (d - 1) ⟨i, by omega⟩ ⟨j, by omega⟩
    else (if ↑j = d - 2 then 1 else (if ↑j = 2 * d - 2 then d else 0))

noncomputable def disc (f : R[X]) : R :=
  f.sylvester_deriv.det * (-1) ^ (f.natDegree * (f.natDegree - 1) / 2)
```
I've checked that with this definition we get the correct formulae for degrees 1, 2, 3 (although the case of cubics was *exceedingly* painful!)

**Comment by loefflerd** [comment]
I have now implemented `Matrix.disc`, using the definition of discriminant of a polynomial that was just merged in #29252, and simp lemmas evaluating the discriminant (and charpoly) of a 2x2 matrix.

**Comment by ocfnash** [comment]
I'll try to review this later. In the meantime:

-awaiting-author

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean [hunk 6]
```diff
@@ -229,6 +229,21 @@ lemma det_one_add_smul (r : R) (M : Matrix n n R) :
...
+  · fin_cases hi
+    · simp [det_eq_sign_charpoly_coeff]
+    · simp [trace_eq_neg_charpoly_coeff]
+    · simpa [leadingCoeff, charpoly_natDegree_eq_dim, Fintype.card_fin] using
+        M.charpoly_monic.leadingCoeff
+  · rw [Finset.mem_range, not_lt, Nat.succ_le] at hi
+    suffices M.charpoly.coeff i = 0 by
+      simpa [show i ≠ 2 by omega, show 1 ≠ i by omega, show i ≠ 0 by omega, coeff_X, coeff_C]
+    apply coeff_eq_zero_of_natDegree_lt
+    simpa [charpoly_natDegree_eq_dim] using hi
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean]: How about we generalise slightly as follows:
```suggestion
lemma charpoly_of_card_two [Nontrivial R] (hn : Fintype.card n = 2) :
    M.charpoly = X ^ 2 - M.trace • X + C (M.det) := by
  have : Nonempty n := by
    rw [← not_isEmpty_iff, ← Fintype.card_eq_zero_iff, hn] -- Should be easier: missing API?
    omega
  ext i
  by_cases hi : i ∈ Finset.range 3
  · fin_cases hi
    · simp [det_eq_sign_charpoly_coeff, hn]
    · simp [trace_eq_neg_charpoly_coeff, hn]
    · simpa [leadingCoeff, charpoly_natDegree_eq_dim, hn, coeff_X] using
        M.charpoly_monic.leadingCoeff
  · rw [Finset.mem_range, not_lt, Nat.succ_le] at hi
    suffices M.charpoly.coeff i = 0 by
      simpa [show i ≠ 2 by omega, show 1 ≠ i by omega, show i ≠ 0 by omega, coeff_X, coeff_C]
    apply coeff_eq_zero_of_natDegree_lt
    simpa [charpoly_natDegree_eq_dim, hn] using hi

lemma charpoly_fin_two [Nontrivial R] (M : Matrix (Fin 2) (Fin 2) R) :
    M.charpoly = X ^ 2 - M.trace • X + C (M.det) :=
  M.charpoly_of_card_two <| Fintype.card_fin _
```
After all, it is not hard to imagine somebody working with a matrix indexed by `Unit ⊕ Unit`.

**Review by ocfnash — COMMENTED** [review]
Just one quick remark for now:

**Comment by loefflerd** [comment]
This broke because of an inconsistency about how to write polynomials – in your suggestion you changed`C M.trace * X` to `M.trace • X`. I changed it back to fix the build.

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean [hunk 7]
```diff
@@ -229,6 +229,28 @@ lemma det_one_add_smul (r : R) (M : Matrix n n R) :
       1 + trace M * r + (det (1 + (X : R[X]) • M.map C)).divX.divX.eval r * r ^ 2 := by
   simpa [eval_det, ← smul_eq_mul_diagonal] using congr_arg (eval r) (Matrix.det_one_add_X_smul M)
 
+lemma charpoly_of_card_eq_two [Nontrivial R] (hn : Fintype.card n = 2) :
+    M.charpoly = X ^ 2 - C M.trace * X + C M.det := by
+  have : Nonempty n := by
+    rw [← not_isEmpty_iff, ← Fintype.card_eq_zero_iff, hn] -- Should be easier: missing API?
+    omega
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean]: Happily I now see we do have this relevant API:
```suggestion
  have : Nonempty n := by rw [← Fintype.card_pos_iff]; omega
```

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Disc.lean [hunk 8]
```diff
@@ -0,0 +1,29 @@
...
+variable {R n : Type*} [CommRing R] [Nontrivial R] [Fintype n] [DecidableEq n]
+
+/-- The discriminant of a matrix is defined to be the discriminant of its characteristic
+polynomial. -/
+noncomputable def disc (A : Matrix n n R) : R := A.charpoly.disc
+
+lemma disc_fin_two (A : Matrix (Fin 2) (Fin 2) R) :
+    A.disc = A.trace ^ 2 - 4 * A.det := by
+  rw [disc, Polynomial.disc_of_degree_eq_two (by simp [charpoly_degree_eq_dim])]
+  simp [A.charpoly_fin_two]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Disc.lean]: I think this is still foundational enough that we should generalise over the indexing set. Additionally I think we should add a `simp` attribute to the lemma `Matrix.charpoly_degree_eq_dim`. If we do that then this can become:
```suggestion
lemma disc_of_card_eq_two (A : Matrix n n R) (hn : Fintype.card n = 2) :
    A.disc = A.trace ^ 2 - 4 * A.det := by
  rw [disc, Polynomial.disc_of_degree_eq_two (by simp; norm_cast)]
  simp [A.charpoly_of_card_eq_two hn]

lemma disc_fin_two (A : Matrix (Fin 2) (Fin 2) R) :
    A.disc = A.trace ^ 2 - 4 * A.det :=
  A.disc_of_card_eq_two <| Fintype.card_fin _
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/FinTwo.lean [hunk 9]
```diff
@@ -0,0 +1,186 @@
...
+  simpa using isElliptic_conj_iff g⁻¹
+
+end LinearOrderedRing
+
+namespace GeneralLinearGroup
+
+variable {R K : Type*} [CommRing R] [Field K]
+
+/-- Synonym of `Matrix.IsParabolic`, for dot-notation. -/
+@[reducible] def IsParabolic (g : GL (Fin 2) R) : Prop := g.val.IsParabolic
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/FinTwo.lean]: This is exactly the meaning of `abbrev` isn't it?
```suggestion
abbrev IsParabolic (g : GL (Fin 2) R) : Prop := g.val.IsParabolic
```
Same remark for `IsElliptic` and `IsHyperbolic` below.

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/FinTwo.lean [hunk 10]
```diff
@@ -0,0 +1,186 @@
...
+
+/-- Synonym of `Matrix.IsElliptic`, for dot-notation. -/
+@[reducible] def IsElliptic [Preorder R] (g : GL (Fin 2) R) : Prop := g.val.IsElliptic
+
+/-- Synonym of `Matrix.IsHyperbolic`, for dot-notation. -/
+@[reducible] def IsHyperbolic [Preorder R] (g : GL (Fin 2) R) : Prop := g.val.IsHyperbolic
+
+/-- Polynomial whose roots are the fixed points of `g` considered as a Möbius transformation. -/
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/FinTwo.lean]: Let's answer the natural question "does Mathlib know this?" as part of the doc string:
```suggestion
/-- Polynomial whose roots are the fixed points of `g` considered as a Möbius transformation.

See `Matrix.GeneralLinearGroup.fixpointPolynomial_aeval_eq_zero_iff`. -/
```

**Review by ocfnash — COMMENTED** [review]
Thanks!

bors d+

**Comment by ocfnash** [comment]
> This broke because of an inconsistency about how to write polynomials – in your suggestion you changed`C M.trace * X` to `M.trace • X`. I changed it back to fix the build.

Ah yes, I forgot to flag that. We don't have a style guide on this so either is fine: I slightly prefer the smul but feel free to do as you see fit.
